US04639518
5,6-Dimethoxy-1,3-dimethylquinazolin-2,4(1H, 3H)-dione 1/4 Hydrate
Dimethyl sulfate (2.5 ml, 3.33 g, 26.40 mM) was added to 5,6-dimethoxy-3-methylquinazolin-2,4(1H, 3H)-dione (2.0 g, 8.47 mM). The mixture was heated at 80°-85° C. (oil bath temperature) for five minutes. Aqueous KOH (7.9 ml of a 5N solution) was added gradually until the pH of the reaction mixture remained basic. The reaction mixture was cooled and the resulting solid filtered, washed with a small amount of H2O and dried to afford the title compound as a white solid; 1.74 g (80.6%); mp 136°-139° C.; CF3COOH(TMS) 7.75 (d, 1H, J7,8 =9.0Hz, 7-H), 7.33 (d, 1H, J8,7 =9.0Hz, 8-H), 4.28 (s, 3H, 5 or 6-OCH3), 4.07 (s, 3H, 5 or 6-OCH3), 3.80 (s, 3H, 1 or 3-N-CH3), 3.73 (s, 3H, 1 or 3-N-CH3); M+ 250.

reactant | Dimethyl sulfate | 26.40 mM, 2.5 ml, 3.33 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 5,6-dimethoxy-3-methylquinazolin-2,4(1H, 3H)-dione | 8.47 mM, 2.0 g | COC1=C2C(N(C(NC2=CC=C1OC)=O)C)=O | C11H12N2O4
reactant | KOH | [OH-].[K+]
product | 5,6-Dimethoxy-1,3-dimethylquinazolin-2,4(1H, 3H)-dione | COC1=C2C(N(C(N(C2=CC=C1OC)C)=O)C)=O | C12H14N2O4
